US05621129
In a solution of 1,3-dimethoxybenzene (3.0 g, 21.7 mmol) dissolved in diethyl ether (90 ml), a 1.65M solution of n-butyl lithium in n-hexane (19.8 ml, 32.7 mmol of n-butyl lithium) was added at room temperature, and a reaction mixture was heated to reflux for 4 hours. After cooling the reaction mixture to 0° C., a solution of carbon tetrabromide (15.8 g, 47.7 mmol) in diethyl ether (60 ml) was added to the mixture, and stirred at room temperature for 20 hours. A small amount of water was added to the reaction mixture, and then the reaction mixture was diluted with ethyl acetate (90 ml). The organic layer was washed with water and dried over anhydrous magnesium sulfate. Thereafter, the solvent was evaporated off, and the residue was purified by column chromatography to obtain 1-bromo-2,6-dimethoxybenzene (2.70 g).

reactant | 1,3-dimethoxybenzene | 21.7 mmol, 3.0 g | COC1=CC(=CC=C1)OC | C8H10O2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | n-hexane | 32.7 mmol, 19.8 ml | CCCCCC | C6H14
reactant | carbon tetrabromide | 47.7 mmol, 15.8 g | C(Br)(Br)(Br)Br | CBr4
solvent | diethyl ether | 90 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | 90 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-bromo-2,6-dimethoxybenzene | 2.70 g | BrC1=C(C=CC=C1OC)OC | C8H9BrO2
